US07122672B2
This Example Illustrates the Preparation of 2-(6-quinolinyloxy)-2-(ethoxy)-N-(2-methylpent-3-yn-2-yl) acetamide (Compound No. 2 of Table 17)
Triethylamine (0.3 ml) was added to a stirred solution of 4-amino-4-methylpent-2-yne hydrochloride (0.054 g) in N,N-dimethylformamide (2 ml) giving a white suspension. 2-(6-Quinolinoxy)-2-(ethoxy)acetic acid (0.1 g) was added followed by N-(3-dimethylaminopropyl)-N′-ethyl carbodiimide hydrochloride (0.077 g) and a catalytic amount of 1-hydroxybenzotriazole (0.005 g), and the white suspension was stirred at ambient temperature for 18 hours. Water was added and the aqueous phase was extracted with ethyl acetate. The organic phase was washed with water, saturated aqueous sodium bicarbonate and brine, dried over magnesium sulphate and evaporated under reduced pressure to give a yellow oil (0.117 g). The oil was purified by flash chromatography (silica gel; ethyl acetate/hexane, 1:1 by volume) to give the required product (0.096 g) as a colourless oil.

reactant | 4-amino-4-methylpent-2-yne hydrochloride | 0.054 g | Cl.NC(C#CC)(C)C
reactant | 2-(6-Quinolinoxy)-2-(ethoxy)acetic acid | 0.1 g | N1=CC=CC2=CC(=CC=C12)OC(C(=O)O)OCC | C13H13NO4
reactant | N-(3-dimethylaminopropyl)-N′-ethyl carbodiimide hydrochloride | 0.077 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.005 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
solvent | Triethylamine | 0.3 ml | C(C)N(CC)CC | C6H15N
product | 2-(6-quinolinyloxy)-2-(ethoxy)-N-(2-methylpent-3-yn-2-yl) acetamide | 0.117 g | N1=CC=CC2=CC(=CC=C12)OC(C(=O)NC(C)(C#CC)C)OCC | C19H22N2O3
